US04623662
Phenyl[(4-butylphenyl)methyl][6-hydroxyhexyl]carbamate
To a stirred solution of 7.26 g of 6-[[(4-butylphenyl)methyl]amino]-1-hexanol in 50 ml of toluene was added a solution of 2.16 g of phenyl chloroformate in 20 ml of toluene, with the immediate precipitation of a white solid. The resulting mixture was stirred at room temperature for 24 hours. The mixture was filtered, and the filter was washed with toluene. The combined filtrate and wash was evaporated in vacuo and gave a colorless oil. The oil was Kugelrohr distilled and gave 3.5 g of the desired product in 66% yield as a colorless oil, bp 180°-195° C./0.06 mm of mercury.

reactant | 6-[[(4-butylphenyl)methyl]amino]-1-hexanol | 7.26 g | C(CCC)C1=CC=C(C=C1)CNCCCCCCO | C17H29NO
reactant | phenyl chloroformate | 2.16 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Phenyl[(4-butylphenyl)methyl][6-hydroxyhexyl]carbamate | 3.5 g, 66% yield | C1(=CC=CC=C1)OC(N(CCCCCCO)CC1=CC=C(C=C1)CCCC)=O | C24H33NO3
